US07419988B2
f) N′-{4-[4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl) 1-ethyl-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea
To N′-(4-{1-ethyl-4-[2-(3-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea (11.45 g, 23.9 mMol) was added a solution of 2 M dimethylamine in THF (24 mL, 48 mMol). The slurry was rinsed down with THF (150 mL) and treated with NaBH(OAc)3 (8.6 g, 40.6 mMol). (Gentle gas evolution was seen and the reaction got slightly warm to the touch.) The reaction was stirred at RT for 1 h (started out as a thick suspension that slowly became a homogeneous fine suspension) and concentrated to dryness under vacuum. The residue that remained was basified with aq. 1 N Na2CO3, (200 mL) and aq. 1 N NaOH (25 mL), extracted with CHCl3 (300 mL) washed with brine, dried (Na2SO4), filtered, and evaporated to dryness under vacuum. Trituration with (1:1) Et2O/pet. ether, filtration, and drying under vacuum gave the title compound (11.20 g, 92%) as a yellow solid (>95% pure by HPLC): MS (ES) m/e 508.2 (M+H)+; 1H NMR (400 MHz, DMSO-d6) δ 12.14 (d, J=1.8 Hz, 1H), 8.31 (s, 1H), 8.27 (s, 1H), 8.07 (d, J=4.8 Hz, 1H), 7.78 (d, J=8.1 Hz, 1H), 7.77 (s, 1H), 7.43 (d, J=8.6 Hz, 2H), 7.39 (d, J=8.1 Hz, 1H), 7.27 (d, J=8.6 Hz, 2H), 7.27 (dd, 1H), 6.79 (d, J=5.1 Hz, 1H), 6.76 (d, J=2.0 Hz, 1H), 4.27 (q, J=7.3 Hz, 2H), 3.43 (s, 2H), 2.18 (s, 6H), 1.51 (t, J=7.2 Hz, 3H).

reactant | N′-(4-{1-ethyl-4-[2-(3-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | 23.9 mMol, 11.45 g | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)C=O)C2=CC=C(C=C2)NC(N(C)C)=O | C28H26N6O2
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | THF | 48 mMol, 24 mL | C1CCOC1 | C4H8O
reactant | NaBH(OAc)3 | 40.6 mMol, 8.6 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | N′-{4-[4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl) 1-ethyl-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea | 11.20 g | CN(C)CC=1C=C(C=CC1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CC)C2=CC=C(C=C2)NC(N(C)C)=O)N1 | C30H33N7O
